US06245773B1
To a biphasic solution of 4-amino-1-benzylpiperidine (6.0 g, 31.6 mmol), K2CO3 (8.71 g, 63.1 mmol) in CH2Cl2 (200 mL) and water (100 mL) was added benzoyl chloride (4.86 g, 34.7 mmol) in 20 mL of CH2Cl2 at 0° C. with stirring. After stirring for 4 h at room temperature, the layers were separated. The organic layer was washed with water, dried over MgSO4 and filtered. The solvent was removed in vacuo to obtain 1-benzyl-4-benzamidopiperidine (8.16 g, 87% yield) as a white solid. It was used in the next step without purification.

reactant | 4-amino-1-benzylpiperidine | 31.6 mmol, 6.0 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | K2CO3 | 63.1 mmol, 8.71 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzoyl chloride | 34.7 mmol, 4.86 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-benzamidopiperidine | 8.16 g, 87% yield | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=CC=CC=C1)=O | C19H22N2O
